US20010053785A1
2-[4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-hexanoic acid
The title compound was prepared from 4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-ol, and ethyl DL-2-hydroxycaproate, in substantially the same manner, as described in Example 1, steps g-h, and was obtained as a white solid, mp 75-76° C.; MS m/e 645 (M−H)+;

reactant | 4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)Br)O)Br)C=CC=C2 | C27H18Br2O2
reactant | ethyl DL-2-hydroxycaproate | CCCCC(C(=O)OCC)O | C8H16O3
product | 2-[4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-hexanoic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)Br)OC(C(=O)O)CCCC)Br)C=CC=C2 | C33H28Br2O4
